US06455571B1
123A (±)-(2R,3R,5R)-1-Benzyl-2-vinyl-3-t-butyldiphenylsilyloxymethyl-pyrrolidine-5-carboxylic Acid t-Butyl Ester
(±)-(2R,3R,5R)-1-Benzyl-2-vinyl-3-hydroxymethyl-pyrrolidine-5-carboxylic acid t-butyl ester (30.8 g, 97.1 mmol) was reacted with t-butyldiphenylsilyl chloride (49.5 mL, 190.4 mmol) and imidazole in dichloromethane (650 mL) at 0° C. for 1 hour. The reaction was quenched methanol followed by extraction with dichloromethane (600 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel using 2/1: chloroform/hexane to provide the title compound (yield: 52.9 g, 98%).

reactant | (±)-(2R,3R,5R)-1-Benzyl-2-vinyl-3-hydroxymethyl-pyrrolidine-5-carboxylic acid t-butyl ester | 97.1 mmol, 30.8 g | C(C)(C)(C)OC(=O)[C@H]1C[C@H]([C@H](N1CC1=CC=CC=C1)C=C)CO | C19H27NO3
reactant | t-butyldiphenylsilyl chloride | 190.4 mmol, 49.5 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 650 mL | ClCCl | CH2Cl2
product | (±)-(2R,3R,5R)-1-Benzyl-2-vinyl-3-t-butyldiphenylsilyloxymethyl-pyrrolidine-5-carboxylic Acid t-Butyl Ester | yield: 52.9 g, 98% | C(C)(C)(C)OC(=O)[C@H]1C[C@H]([C@H](N1CC1=CC=CC=C1)C=C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C35H45NO3Si
